US06921762B2
Preparation of 5-(2(R)-(hydroxymethyl)pyrrolidin-1-yl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine
The title compound was synthesized from 5-(2(R)-(hydroxymethyl)-pyrrolidin-1-yl)-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine in the same manner as 5-(1-(t-butoxycarbonyl)-1,2,3,6-tetrahydropyrid-4-yl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine; MS (m/z) 560.4 (M+H)+; C30H28F3N7O requir. 559.59.

reactant | 5-(2(R)-(hydroxymethyl)-pyrrolidin-1-yl)-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | OC[C@@H]1N(CCC1)C1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)Cl | C22H18ClF3N6O
reactant | 5-(1-(t-butoxycarbonyl)-1,2,3,6-tetrahydropyrid-4-yl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)N[C@@H](C)C2=CC=CC=C2 | C35H34F3N7O2
product | 5-(2(R)-(hydroxymethyl)pyrrolidin-1-yl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | OC[C@@H]1N(CCC1)C1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)N[C@@H](C)C2=CC=CC=C2 | C30H28F3N7O
